US05001243
Using the same procedure and naphthalene-2,3-dicarboxylic anhydride and 1,2-difluorobenzene gives 2,3-difluoronaphthacene-5,12-dione.

reactant | naphthalene-2,3-dicarboxylic anhydride | C1=C2C(=CC3=CC=CC=C13)C(=O)OC2=O | C12H6O3
reactant | 1,2-difluorobenzene | FC1=C(C=CC=C1)F | C6H4F2
product | 2,3-difluoronaphthacene-5,12-dione | FC1=CC=2C(C3=CC4=CC=CC=C4C=C3C(C2C=C1F)=O)=O | C18H8F2O2
